US07618990B2
4,4-Dimethyl-3-{4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}-1,3-oxazolidin-2-one
A vial under nitrogen was charged with 2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl trifluoromethanesulfonate (100 mg, 0.28 mmol), [4-(trifluoromethyl)phenyl]-boronic acid (58 mg, 0.31 mmol), and tetrakis(triphenylphosphine)palladium (65 mg, 0.056 mmol) followed by tetrahydrofuran (0.6 mL) and triethylamine (0.13 mL, 0.92 mmol). The mixture was stirred for 16 h, diluted with tetrahydrofuran, passed through a plug of silica gel (2 g) and concentrated. The crude product was purified by reverse phase HPLC to give the title compound. HRMS: calcd for C15H13F3N2O2S+H+, 343.07226; found (ESI-FT/MS, [M+H]1+), 343.0725; Analytical HPLC: purity 100% at 210-370 nm, 10.7 min; 100% at 268 nm, 10.7 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min

reactant | 2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl trifluoromethanesulfonate | 0.28 mmol, 100 mg | FC(S(=O)(=O)OC=1N=C(SC1)N1C(OCC1(C)C)=O)(F)F | C9H9F3N2O5S2
reactant | [4-(trifluoromethyl)phenyl]-boronic acid | 0.31 mmol, 58 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 0.92 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.056 mmol, 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
product | 4,4-Dimethyl-3-{4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}-1,3-oxazolidin-2-one | CC1(N(C(OC1)=O)C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)C | C15H13F3N2O2S
